US04139531
1-Nitro-9-phenoxyacridine (1.58 g) is dissolved in about 5 g of phenol, and then 0.95 g of 2-isobutylaminoethylamine dihydrochloride is added and is heated at a temperature of 90° C. for 1.2 hour. It is isolated in a similar manner, as in Example VII. There is obtained 1-nitro-9-isobutylaminoethylaminoacridine dihydrochloride with a melting point of 230° C. (with decomposition).

reactant | 1-Nitro-9-phenoxyacridine | 1.58 g | [N+](=O)([O-])C1=CC=CC2=NC3=CC=CC=C3C(=C12)OC1=CC=CC=C1 | C19H12N2O3
reactant | 2-isobutylaminoethylamine dihydrochloride | 0.95 g | Cl.Cl.C(C(C)C)NCCN
solvent | phenol | about 5 g | C1(=CC=CC=C1)O | C6H6O
product | 1-nitro-9-isobutylaminoethylaminoacridine dihydrochloride | Cl.Cl.[N+](=O)([O-])C1=CC=CC2=NC3=CC=CC=C3C(=C12)NCCNCC(C)C | InChI=1S/C19H22N4O2.2ClH/c1-13(2)12-20-10-11-21-19-14-6-3-4-7-15(14)22-16-8-5-9-17(18(16)19)23(24)25;;/h3-9,13,20H,10-12H2,1-2H3,(H,21,22);2*1H
